* SPICE export by:      S-Edit 2022.2.3
* Export time:          Tue May 14 17:46:09 2024
* Design path:          /home/vlsi/Videos/FinalProject/CND_Advanced_Full_Custom/lib.defs
* Library:              CND_Advanced_Full_Custom
* Cell:                 AND_2
* Testbench:            Spice
* View:                 schematic
* Export as:            subcircuit definition
* Export mode:          hierarchical
* Exclude empty:        no
* Exclude .model:       no
* Exclude .hdl:         no
* Exclude .end:         no
* Expand paths:         no
* Wrap lines:           no
* Exclude simulator commands:  no
* Exclude global pins:         no
* Exclude instance locations:  no
* Control property name(s):    LVS SPICE

.SUBCKT NMOS25 D G S B
.ENDS
.SUBCKT PMOS25 D G S B
.ENDS
.SUBCKT NMOS33 D G S B
.ENDS
.SUBCKT PMOS33 D G S B
.ENDS

*************** Subcircuits ***************
.subckt nand_2 A B Out Gnd Vdd 
* Library name: CND_Advanced_Full_Custom
* Cell name: nand_2
* View name: schematic
* PORT=B TYPE=In
* PORT=A TYPE=In
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=Out TYPE=Out

MMn1 Out A N_1 Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4600 $y=3500 $w=400 $h=600
MMn2 N_1 B Gnd Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4600 $y=2300 $w=400 $h=600
MMp1 Out A Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4000 $y=4800 $w=400 $h=600
MMp2 Out B Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=5100 $y=4800 $w=400 $h=600
.ends

.subckt Inverter_1 In Out Gnd Vdd 
* Library name: CND_Advanced_Full_Custom
* Cell name: Inverter_1
* View name: schematic
* PORT=Gnd TYPE=Other
* PORT=Vdd TYPE=Other
* PORT=In TYPE=In
* PORT=Out TYPE=Out

MMn2 Out In Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=4400 $y=3500 $w=400 $h=600
MMp2 Out In Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4400 $y=4500 $w=400 $h=600
.ends

.subckt AND_2 A B Y Gnd Vdd 
* Library name: CND_Advanced_Full_Custom
* Cell name: AND_2
* View name: schematic
* PORT=Y TYPE=Out
* PORT=B TYPE=In
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=A TYPE=In

XInverter_1_1 N_1 Y Gnd Vdd Inverter_1 $ $x=6500 $y=3600 $w=1800 $h=800
Xnand_2_1 A B N_1 Gnd Vdd nand_2 $ $x=4200 $y=3600 $w=1800 $h=800
.ends



