* File: Inverter_1.pex.netlist.pex
* Created: Mon Apr  8 12:48:03 2024
* Program "Calibre xRC"
* Version "v2023.4_17.10"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_Inverter_1_Vdd 4 18 22 26 28 29 32 38
c18 38 0 0.0484228f
c19 28 0 0.00147733f
c20 26 0 0.00168612f
c21 18 0 1.43764e-19
r22 38 40 0.000270078
r23 36 38 0.283312
r24 34 36 0.00162047
r25 32 33 0.572714
r26 29 33 0.122143
r27 28 33 0.103491
r28 27 38 0.234926
r29 27 28 1.254
r30 26 32 0.103491
r31 25 34 0.234926
r32 25 26 1.254
r33 22 29 1.159
r34 20 40 0.5
r35 18 20 0.0623333
r36 15 36 1
r37 11 36 1
r38 4 15 0.215909
r39 4 11 0.215909
.ends

.subckt PM_Inverter_1_Gnd 5 8 18 24 25 33
c15 33 0 0.0248094f
c16 24 0 5.72566e-19
c17 22 0 6.49296e-19
c18 18 0 5.45595e-20
c19 8 0 1.93118e-19
r20 33 35 0.000554745
r21 32 33 0.581927
r22 30 32 0.000554745
r23 28 29 0.57
r24 25 29 0.122143
r25 24 33 0.0995564
r26 23 29 0.103491
r27 23 24 0.848667
r28 22 30 0.0995564
r29 21 28 0.103491
r30 21 22 0.848667
r31 18 25 1.13457
r32 16 32 1
r33 10 35 1
r34 8 10 0.124667
r35 5 16 0.000454545
.ends

.subckt PM_Inverter_1_Out 1 3 6 8 10 12
c13 12 0 1.21516e-19
c14 8 0 1.43764e-19
c15 3 0 2.11859e-19
r16 10 16 1.15267
r17 10 12 0.860489
r18 8 16 0.5
r19 6 8 0.0625
r20 3 12 1
r21 1 3 0.125
.ends

.subckt PM_Inverter_1_In 1 2 3
c12 1 0 1.12458e-19
r13 2 3 1.8
r14 1 3 1.06
.ends

